US07994185B2
N-{3-[2-(1,1-Dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
To a solution of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (100 mg, 0.186 mmol) and TEA (52 μL, 0.371 mmol) in EtOH (5 mL) and MeOH (1 mL) was added 10% (w/w) palladium on carbon (50 mg, 0.048 mmol). The suspension was transferred to a hydrogenation bottle, and installed in a Fisher-Porter hydrogenation apparatus. The bottle was charged with H2 (50 psi) and stirred at rt for 72 h. The reaction mixture was filtered through Celite and concentrated to generate 90 mg (0.178 mmol, 96%) of the title compound as a white powder. 1H NMR (400 MHz, DMSO-d6): δ 10.75 (s, 1H), 9.10 (s, 1H), 8.60 (d, J=5.3 Hz, 1H), 7.53-7.57 (m, 1H), 7.40-7.50 (m, 4H), 7.30 (t, J=7.6 Hz, 1H), 6.89 (d, J=5.3 Hz, 1H), 1.43 (s, 9H). MS (ESI): 504.6 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.186 mmol, 100 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H18ClF3N4O2S2
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | MeOH | 1 mL | CO | CH4O
catalyst | palladium on carbon | 0.048 mmol, 50 mg | [Pd] | Pd
product | N-{3-[2-(1,1-Dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.178 mmol, 90 mg, 96% | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC=NC=C1 | C23H19F3N4O2S2
